US04613676
Z-Phe-Arg-Leu-Val-Ile-His-NH2
In a manner analogous to that described in Example 1, using as starting materials 69 mg of Z-Phe-Arg-OH, 50 mg of H-Leu-Val-Ile-His-NH2, 16 mg of HOBt and 40 mg of DCCI, the title compound is obtained in the form of a colourless powder after flash chromatography (45 g of silica gel 60, 40-63 μm, eluant system methylene chloride/methanol/water/glacial acetic acid 330:100: 19:2). Rf (S3)=0.16.

reactant | Z-Phe-Arg-OH | 69 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H29N5O5
reactant | H-Leu-Val-Ile-His-NH2 | 50 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N | C23H41N7O4
reactant | HOBt | 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 40 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride methanol water | C(Cl)Cl.CO.O
product | Z-Phe-Arg-Leu-Val-Ile-His-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C46H68N12O8
